US04035499
A. Desylisoquinolinium bromide
A solution of isoquinoline(10 g) and desylbromide (10 g) in dry benzene (50 ml) was stirred at 40° for seven hours. The suspension was allowed to stand overnight, and the benzene solution decanted off. The solid was ground to a powder, washed well with ether, and dried. Yield 12.3 g (85%), m.p. 239°-241° (Found C 68.3; H 4.6; N 3.4, Required C 68.3; H 4.5; N 3.5).

reactant | isoquinoline | 10 g | C1=NC=CC2=CC=CC=C12 | C9H7N
reactant | desylbromide | 10 g | C1(=CC=CC=C1)C(=O)C(C1=CC=CC=C1)Br | C14H11BrO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | Desylisoquinolinium bromide | [Br-].C1(=CC=CC=C1)C(=O)C(C1=CC=CC=C1)C1=[NH+]C=CC2=CC=CC=C12 | InChI=1S/C23H17NO.BrH/c25-23(19-12-5-2-6-13-19)21(18-10-3-1-4-11-18)22-20-14-8-7-9-17(20)15-16-24-22;/h1-16,21H;1H
